US04208521
1,5-Dihydro-6-methylimidazo[2,1-b]quinazolin-2(3H)-one
A mixture of N-(2-amino-6-methylbenzyl)glycine ethyl ester (1.097 g, 0.0049 mole) and 3,5-dimethylpyrazole-1-carboxamidine nitrate (0.993 g, 0.0049 mole) in absolute ethanol (15 ml) was heated at reflux for 64 hours. The mixture then was filtered and the product washed with hot ethanol to yield the title compound (0.610 g, 61%); identical (ir, nmr) with authentic material prepared according to the procedure of J. Med. Chem., 18, 224 (1975)).

reactant | N-(2-amino-6-methylbenzyl)glycine ethyl ester | 0.0049 mole, 1.097 g | C(C)OC(CNCC1=C(C=CC=C1C)N)=O | C12H18N2O2
reactant | 3,5-dimethylpyrazole-1-carboxamidine nitrate | 0.0049 mole, 0.993 g | [N+](=O)(O)[O-].CC1=NN(C(=C1)C)C(=N)N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1,5-Dihydro-6-methylimidazo[2,1-b]quinazolin-2(3H)-one | 0.610 g, 61% | CC1=C2CN3C(=NC2=CC=C1)NC(C3)=O | C11H11N3O
